US06262040B1
1-Cyclopentyl-3-ethyl-6-thiophen-2-yl-1H-indazole
A solution of 76 mg (0.598 mmol, 1.2 equiv) thiophene-2-boronic acid in 0.5 mL methanol was added to a room temperature suspension of 146 mg (0.498 mmol, 1.0 equiv) 6-bromo-1-cyclopentyl-3-ethyl-1H-indazole and 17 mg (0.0149 mmol, 0.03 equiv) Pd(PPh3)4in 2 mL toluene and 0.5 mL 2M aqueous Na2CO3. The mixture was heated to reflux for 4 h, then cooled to room temperature. The reaction mixture was diluted with 50 mL ethyl acetate, washed 1×10 mL each H2O, brine, and dried over MgSO4. The crude product was purified on a silica gel column (3% ethylacetate/hexanes, flash) to give 81 mg (55%) of a clear oil, which crystalized onstanding: mp 60-64° C.; HRMS calcd for C18H20N2S+H: 297.1427. Found: 297.1484.

reactant | thiophene-2-boronic acid | 0.598 mmol, 76 mg, 1.2 equiv | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | 6-bromo-1-cyclopentyl-3-ethyl-1H-indazole | 0.498 mmol, 146 mg, 1.0 equiv | BrC1=CC=C2C(=NN(C2=C1)C1CCCC1)CC | C14H17BrN2
reactant | Na2CO3 | 2M, 0.5 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | methanol | 0.5 mL | CO | CH4O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 1-Cyclopentyl-3-ethyl-6-thiophen-2-yl-1H-indazole | 81 mg, 55% | C1(CCCC1)N1N=C(C2=CC=C(C=C12)C=1SC=CC1)CC | C18H20N2S
